US07939531B2
Trimethylsilylacetylene (11.1 mL, 80 mmol) was added to a solution of 2-amino-3,6-dibromopyrazine (5.06 g, 20 mmol), Pd(PPh3)2Cl2 (0.140 g, 0.20 mmol), triethylamine (11.4 mL, 80 mmol) and copper(I) iodide (0.114 g, 0.60 mmol) in 50 mL of tetrahydrofuran at 0-5° C. The reaction mixture was allowed to warm to RT and stirred for 64 h. Additional trimethylsilylacetylene (5.6 mL, 40 mmol), Pd(PPh3)2Cl2 (0.140 g, 0.20 mmol) and copper(I) iodide (0.114 g, 0.60 mmol) were added, and the mixture was stirred at 50° C. for 22 h then allowed to cool to RT. The mixture was diluted with 200 mL of ethyl acetate and 200 mL of hexanes, then sequentially washed with three 200 mL portions of water and 200 mL of a sat. aq. NaHCO3 solution, dried over MgSO4, filtered and concentrated to a residue. Silica gel chromatography (0->25% EtOAc/hexanes) afforded 4.36 g (76%) of 3,5-bis-trimethylsilanylethynyl-pyrazin-2-ylamine as a brown oil.

reactant | Trimethylsilylacetylene | 80 mmol, 11.1 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 2-amino-3,6-dibromopyrazine | 20 mmol, 5.06 g | NC1=NC(=CN=C1Br)Br | C4H3Br2N3
reactant | triethylamine | 80 mmol, 11.4 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 40 mmol, 5.6 mL | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.20 mmol, 0.140 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.60 mmol, 0.114 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.20 mmol, 0.140 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.60 mmol, 0.114 g | [Cu]I
product | 3,5-bis-trimethylsilanylethynyl-pyrazin-2-ylamine | 4.36 g, 76% | C[Si](C=1C(=NC=C(N1)[Si](C)(C)C)NC#C)(C)C | C12H21N3Si2
